US06291465B1
A mixture of 316 mg (1.68 mmol) 2-chloro-4-fluoro-N-methyl-benzamide and 0.94 ml (8.4 mmol) 1-methylpiperazine was heated at 140° for 7 h in a sealed glass tube. After cooling to room temperature excess 1-methylpiperazine was removed by distillation at 50°/0.5 mbar. The residue was partitioned between 25 ml CH2Cl2/2 N NaOH solution. The layers were separated and the aqueous layer was extracted with 3 15-ml portions of dichloromethane. The combined organic extracts were dried (Na2SO4) and evaporated. Chromatography (SiO2, CH2Cl2/methanol 19:1 yielded 236 mg (52%) 2-Chloro-N-methyl-4-(4-methyl-piperazin-1-yl)-benzamide as a light yellow solid, MS (EI): 2.67(M+).

reactant | 2-chloro-4-fluoro-N-methyl-benzamide | 1.68 mmol, 316 mg | ClC1=C(C(=O)NC)C=CC(=C1)F | C8H7ClFNO
reactant | 1-methylpiperazine | 8.4 mmol, 0.94 ml | CN1CCNCC1 | C5H12N2
product | 2-Chloro-N-methyl-4-(4-methyl-piperazin-1-yl)-benzamide | 236 mg, 52% | ClC1=C(C(=O)NC)C=CC(=C1)N1CCN(CC1)C | C13H18ClN3O
